US05576322
4-(α-Carbamoyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
20 ml of a 10% solution of ammonia in ethanol was added to 200 mg of 4-(α-ethoxycarbonyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline. The obtained mixture was stirred at room temperature for 3 days. The crystal thus precipitated was recovered by filtration. Thus, 60 mg of the title compound was obtained.

reactant | ammonia | N | H3N
reactant | 4-(α-ethoxycarbonyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 200 mg | C(C)OC(=O)C(C1=CC2=C(C=C1)OCO2)NC2=NC=NC1=CC=C(C=C21)Cl | C19H16ClN3O4
solvent | ethanol | C(C)O | C2H6O
product | 4-(α-Carbamoyl-3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 60 mg, yield(%); 32 | C(N)(=O)C(C1=CC2=C(C=C1)OCO2)NC2=NC=NC1=CC=C(C=C21)Cl | C17H13ClN4O3
